US07692005B2
A mixture of 4-nitrobenzoic acid (2.00 g, 11.9 mmol), N,N-diethylethylene diamine (1.53 g, 13.16 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.74 g, 14.35 mmol), and 1-hydroxybenzotriazole hydrate (2.19 g, 14.35 mmol) in 15 mL DMF was stirred at room temperature for 4 hours. The mixture was diluted with dichloromethane (100 mL) and washed with aqueous saturated sodium bicarbonate solution (50 mL). The aqueous layer was re-extracted with dichloromethane (2×50 mL) and the combined organic solutions were dried (Na2SO4), filtered and evaporated under reduced pressure. The crude mixture was purified on silica gel column to provide N-(2-(diethylamino)-ethyl)-4-nitrobenzamide as an amber colored oil (2.2 g 69%).

reactant | 4-nitrobenzoic acid | 11.9 mmol, 2.00 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | N,N-diethylethylene diamine | 13.16 mmol, 1.53 g | C(C)N(CCN)CC | C6H16N2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 14.35 mmol, 2.74 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 14.35 mmol, 2.19 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(2-(diethylamino)-ethyl)-4-nitrobenzamide | C(C)N(CCNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)CC | C13H19N3O3
